US09284323B2
To a stirred solution of (R)-2-(1-chloro-3-methylnaphthalen-2-yl)oxirane (340 mg, 1.56 mmol) and 2-trifluoromethyl-2-propanol (4.3 mL, 38.97 mmol) in CH2Cl2 (4.3 mL), boron trifluoride diethyl etherate (1.9 mL, 15.60 mmol) was added at 0° C. The reaction mixture was stirred for 16 h at 0° C. and allowed to warm to room temperature overnight. The mixture was quenched with saturated aqueous NaHCO3, and then diluted with CH2Cl2. The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated and purified by flash column chromatography (silica gel, 0 to 20% ethyl acetate/hexanes) to give 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol. 1H-NMR: 400 MHz, (CDCl3) δ 8.27 (d, J=8.4 Hz, 1H), 7.73 (d, J=7.6 Hz, 1H), 7.57-7.49 (m, 3H), 5.90 (dd, J=9.6, 4.4 Hz, 1H), 3.98 (t, J=11.2 Hz, 1H), 3.66 (dd, J=12.0, 4.0 Hz, 1H), 2.69 (s, 3H), 2.18 (br s, 1H), 1.45 (s, 3H), 1.19 (s, 3H).

reactant | (R)-2-(1-chloro-3-methylnaphthalen-2-yl)oxirane | 1.56 mmol, 340 mg | ClC1=C(C(=CC2=CC=CC=C12)C)[C@H]1OC1 | C13H11ClO
reactant | 2-trifluoromethyl-2-propanol | 38.97 mmol, 4.3 mL | FC(C(C)(C)O)(F)F | C4H7F3O
reactant | boron trifluoride diethyl etherate | 15.60 mmol, 1.9 mL | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 4.3 mL | C(Cl)Cl | CH2Cl2
product | 2-(1-chloro-3-methylnaphthalen-2-yl)-2-(1,1,1-trifluoro-2-methylpropan-2-yloxy)ethanol | ClC1=C(C(=CC2=CC=CC=C12)C)C(CO)OC(C(F)(F)F)(C)C | C17H18ClF3O2
